US07598383B2
Step B: Preparation of 4-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-hydroxyethoxy)-amide:
1 N HCl solution (0.36 mL) was added to a stirred solution of 4-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-vinyloxyethoxy)-amide (0.077 g, 0.181 mmol) in a 1:1 mixture of EtOH:THF (6 mL). After 1 hour, the pH of the reaction mixture was adjusted to 5 to 7 with 2 N NaOH solution. The reaction mixture was diluted with EtOAc, washed with water, dried (MgSO4) and concentrated. Trituration with diethyl ether yielded 55 mg (76%) clean desired product as a white solid. MS APCI (−) m/z 398, 400 (M−, Br pattern) detected; 1H NMR (400 mHz, DMSO-d6) δ 11.65 (s, 1H), 9.41 (s, 1H), 8.13 (s, 1H), 7.68 (d, 1H), 7.43 (m, 3H), 4.74 (t, 1H), 3.91 (t, 2H), 3.62 (m, 2H), 3.36 (s, 3H).

reactant | HCl | 1 N, 0.36 mL | Cl | ClH
reactant | 4-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-vinyloxyethoxy)-amide | 0.181 mmol, 0.077 g | C(=C)OCCONC(=O)C1=CN(C(C=C1NC1=C(C=C(C=C1)Br)F)=O)C | C17H17BrFN3O4
reactant | EtOH | CCO | C2H6O
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-hydroxyethoxy)-amide | 55 mg, 76% | OCCONC(=O)C1=CN(C(C=C1NC1=C(C=C(C=C1)Br)F)=O)C | C15H15BrFN3O4
